US07635715B2
Step D: Preparation of Ethyl 6,7-dichloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate
Concentrated H2SO4 (4203 μL) was added to solid diethyl 2-(4-(3,4-dichlorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate (3.29 g, 7884 μmol) at ambient temperature. The reaction was heated at 50° C. for 6 hours and then poured into a flask of ice, diluted with 150 mL of EtOAc, added to a separatory funnel, partitioned with water, washed 2 times with 50 mL of water, separated, dried over Na2SO4, and concentrated in vacuo to give the purified title compound (375 mg) after flash chromatography as a pale yellow solid. MS (m/z)=371 (M+H)+.

reactant | H2SO4 | 4203 μL | OS(=O)(=O)O | H2O4S
reactant | diethyl 2-(4-(3,4-dichlorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | 7884 μmol, 3.29 g | ClC=1C=C(C=CC1Cl)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C19H22Cl2O6
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | Ethyl 6,7-dichloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | ClC=1C=C2C(=C(C(C3(CCOCC3)C2=CC1Cl)=O)C(=O)OCC)O | C17H16Cl2O5
